US09023843B2
[3-(4-Amino-piperidin-1-yl)-propyl]carbamic acid tert-butyl ester
To a solution of [1-(3-tert-butoxycarbonylamino-propyl)-piperidin-4-yl]-carbamic acid benzyl ester (16.9 g, 43.2 mmol, 1 equiv) in ethanol (200 mL) at 23° C. was added palladium on carbon (2.25 g, 10 wt. %, wet, Degussa type). The reaction vessel was placed under an atmosphere of hydrogen (balloon) and stirred for 14 h. At this time tlc analysis indicated the reaction was incomplete, the mixture was filtered through a pad of Celite, washing with ethanol (100 mL). The resulting solution was treated with fresh palladium catalyst (2.25 g), then placed under an atmosphere of hydrogen (balloon) at 50° C. After 7 h tlc analysis indicates complete consumption of the starting material. The reaction mixture was cooled to 23° C., and then filtered through Celite, washing with ethanol (200 mL). The filtrate was concentrated to give 11.1 g (43.2 mmol, 100%) of the desired compound.

reactant | [1-(3-tert-butoxycarbonylamino-propyl)-piperidin-4-yl]-carbamic acid benzyl ester | 43.2 mmol, 16.9 g, 1 equiv | C(C1=CC=CC=C1)OC(NC1CCN(CC1)CCCNC(=O)OC(C)(C)C)=O | C21H33N3O4
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 2.25 g | [Pd] | Pd
product | [3-(4-Amino-piperidin-1-yl)-propyl]carbamic acid tert-butyl ester | 43.2 mmol, 11.1 g, 100% | C(C)(C)(C)OC(NCCCN1CCC(CC1)N)=O | C13H27N3O2
